US06660742B2
CCl4 (0.2 mL, 2.18 mmol) was added to a solution of 2-[4-(N-benzyloxycarbonylamino)-2-nitronaphthalen-1-yl]ethanol (0.1 g, 0.27 mmol) and Ph3P (0.29 g, 1.09 mmol) in CH2Cl2 (5 mL) under N2 atmosphere and stirred for 3 h. Flash chromatography (10% AcOEt-Petroleum ether) afforded of 2-[4-(N-benzyloxycarbonylamino)-2-nitronaphthalen-1-yl]ethyl chloride (0.1 g, 96%) as an orange solid. M.p. 122-124° C.; 1H NMR (CDCl3, 500 MHz) δ 8.18 (d, 8.5, 1H), 7.89 (d, 8.5, 1H), 7.70 (t, 7.0, 1H), 7.62 (t, 7.0, 1H), 7.45 (d, 7.0, 2H), 7.41 (t, 7.5, 2H), 7.35 (t, 7.5, 1H), 6.95 (s, 1H), 4.93 (brs, 1H), 4.51 (d, 5.0, 2H), 3.86 (t, 8.0, 2H), 3.56 (t, 8.5, 2H); IR (neat) 3087, 3033, 2927, 2856, 1594, 1519, 1439, 1342, 1124, 752, 699 cm−1. FABMS (NBA) m/z 340 (M−CO2+), ESMS m/z 341 (M−CO2+H+).

reactant | CCl4 | 2.18 mmol, 0.2 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 2-[4-(N-benzyloxycarbonylamino)-2-nitronaphthalen-1-yl]ethanol | 0.27 mmol, 0.1 g | C(C1=CC=CC=C1)OC(=O)NC1=CC(=C(C2=CC=CC=C12)CCO)[N+](=O)[O-] | C20H18N2O5
reactant | Ph3P | 1.09 mmol, 0.29 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(N-benzyloxycarbonylamino)-2-nitronaphthalen-1-yl]ethyl chloride | 0.1 g, 96% | C(C1=CC=CC=C1)OC(=O)NC1=CC(=C(C2=CC=CC=C12)CCCl)[N+](=O)[O-] | C20H17ClN2O4
